US07741281B2
A stirred slurry of ethyl 1(R)-[1-tert-butoxycarbonyl-4(R)-hydroxypyrrolidine-2(S)-carboxamido]-2(S)-vinylcyclopropanecarboxylate (5.0 g, 13.6 mmol) was treated with 4N HCl/dioxane (20 mL) for 3 h. The reaction mixture was concentrated in vacuo to give 4.5 g (97%) of ethyl 1(R)-[4(R)-hydroxypyrrolidine-2(S)-carboxamido]-2(S)-vinylcyclopropanecarboxylate hydrochloride as a white solid: 1H NMR (300 MHz, CD3OD) δ 1.26 (t, J=7.14 Hz, 3 H), 1.46 (dd, J=9.70, 5.31 Hz, 1H), 1.80 (dd, J=8.23, 5.31 Hz, 1H), 2.00-2.15 (m, 1 H), 2.18-2.30 (m, 1H), 2.45 (dd, J=13.36, 7.50 Hz, 1H), 3.36-3.48 (m, 1H), 4.11-4.24 (m, 2H), 4.44 (dd, J=10.25, 7.68 Hz, 1H), 4.58-4.65 (m, 1H), 4.84-4.94 (m, 1H), 5.17 (d, J=1.83 Hz, 1H), 5.27-5.42 (m, 1H), 5.67-5.89 (m, 1H).

reactant | ethyl 1(R)-[1-tert-butoxycarbonyl-4(R)-hydroxypyrrolidine-2(S)-carboxamido]-2(S)-vinylcyclopropanecarboxylate | 13.6 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)N[C@]1([C@@H](C1)C=C)C(=O)OCC | C18H28N2O6
reactant | HCl dioxane | 4N, 20 mL | Cl.O1CCOCC1
product | ethyl 1(R)-[4(R)-hydroxypyrrolidine-2(S)-carboxamido]-2(S)-vinylcyclopropanecarboxylate hydrochloride | 4.5 g, 97% | Cl.O[C@@H]1C[C@H](NC1)C(=O)N[C@]1([C@@H](C1)C=C)C(=O)OCC | InChI=1S/C13H20N2O4.ClH/c1-3-8-6-13(8,12(18)19-4-2)15-11(17)10-5-9(16)7-14-10;/h3,8-10,14,16H,1,4-7H2,2H3,(H,15,17);1H/t8-,9-,10+,13-;/m1./s1
